US06599917B1
a) 2-Chloro-3-(2-thienylcarbonyl)pyridine
10 g of 2-chloronicotinic acid chloride was added to a mixture of 7.2 g of aluminum chloride and 100 ml of carbon disulfide under ice-cooling, followed by adding 8.8 ml of thiophene was slowly added dropwise thereinto. After stirring at room temperature for two nights, the reaction solution was slowly poured into ice water. The mixture was extracted with ethyl acetate, and the organic phase was successively washed with aqueous saturated sodium bicarbonate and brine. After removing the solvent, the residue was subjected to silica gel column chromatography and eluted with hexane/ethyl acetate (3:1) and then with hexane/ethyl acetate (2:1), to give 1.64 g of the target compound.

reactant | 2-chloronicotinic acid chloride | 10 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | aluminum chloride | 7.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | thiophene | 8.8 ml | S1C=CC=C1 | C4H4S
solvent | carbon disulfide | 100 ml | C(=S)=S | CS2
product | 2-Chloro-3-(2-thienylcarbonyl)pyridine | 1.64 g | ClC1=NC=CC=C1C(=O)C=1SC=CC1 | C10H6ClNOS
